US04990508
In 8.57 ml of water was dissolved 730 mg of (S)-10-(1-aminocyclopropyl)-9-fluoro-3-methyl-7-oxo-2,3-dihydro-7H-pyrido[1,2,3-de][1,4]benzoxazine-6-carboxylic acid hydrochloride, and to the resulting solution were added 242 mg of potassium hydroxide and 5.84 ml of ethanol in this order. Subsequently, 0.19 ml of conc. hydrochloric acid was dropped thereinto at 60° C. in 30 minutes, and thereafter, the resulting mixture was cooled to 20° C. in 2 hours. The mixture was stirred at 20° C. for a further 30 minutes, and the resulting crystals were collected by filtration to obtain 570 mg (yield: 87.0%) of (S)-10-(1-aminocyclopropyl)-9-fluoro-3-methyl-7-oxo2,3-dihydro-7H-pyrido[1,2,3-de][1,4]benzoxazine-6-carboxylic acid.

reactant | (S)-10-(1-aminocyclopropyl)-9-fluoro-3-methyl-7-oxo-2,3-dihydro-7H-pyrido[1,2,3-de][1,4]benzoxazine-6-carboxylic acid hydrochloride | 730 mg | Cl.NC1(CC1)C=1C(=CC2=C3N([C@H](COC31)C)C=C(C2=O)C(=O)O)F
reactant | potassium hydroxide | 242 mg | [OH-].[K+]
reactant | ethanol | 5.84 ml | C(C)O | C2H6O
reactant | hydrochloric acid | 0.19 ml | Cl | ClH
solvent | water | 8.57 ml | O | H2O
product | (S)-10-(1-aminocyclopropyl)-9-fluoro-3-methyl-7-oxo2,3-dihydro-7H-pyrido[1,2,3-de][1,4]benzoxazine-6-carboxylic acid | 570 mg, yield: 87.0% | NC1(CC1)C=1C(=CC2=C3N([C@H](COC31)C)C=C(C2=O)C(=O)O)F | C16H15FN2O4
